US07923561B2
rac-3,4,5-Trifluoro-N-[2-(6-methoxy-indan-1-ylamino)-quinolin-5-yl]-benzenesulfonamide
The title compound, MS: m/e=500.4 (M+H+), was prepared in accordance with the general method of example 13 from 5-nitro-2-chloroquinoline, 3,4,5-trifluorobenzenesulfonyl chloride and 6-methoxyindan-1-ylamine (CAS 103028-81-5).

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 3,4,5-trifluorobenzenesulfonyl chloride | FC=1C=C(C=C(C1F)F)S(=O)(=O)Cl | C6H2ClF3O2S
reactant | 6-methoxyindan-1-ylamine | COC1=CC=C2CCC(C2=C1)N | C10H13NO
product | rac-3,4,5-Trifluoro-N-[2-(6-methoxy-indan-1-ylamino)-quinolin-5-yl]-benzenesulfonamide | FC=1C=C(C=C(C1F)F)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NC1CCC2=CC=C(C=C12)OC | C25H20F3N3O3S
